US07091353B2
N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]pentanamide I-32
To a stirred suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2.0 mmol) in THF (30 ml) was added pentanoyl chloride (0.48 g, 4.0 mmol). The stirred mixture was heated to reflux for 18 hours. The solvent was evaporated in vacuo and the resulting solid was slurried in diethyl ether (20 ml) and filtered to give 0.61 g (85%) of product as an off-white solid: mp 178–179° C.; 1H NMR (DMSO-d6) δ 11.17 (s, 1H), 9.65 (s, 1H), 8.50 (d, J=8.3 Hz, 1H), 7.82 (t, J=7.5 Hz, 1H), 7.59 (d, J=7.2 Hz, 1H), 5.18 (dd, J=5.0 and 12.4 Hz, 1H), 2.99–2.89 (m, 1H), 2.68–2.45 (m, 4H), 2.13–2.09 (m, 1H), 1.69–1.57 (m, 2H), 1.44–1.30 (m, 2H), 0.92 (t, J=7.2 Hz, 3H); 13C NMR (DMSO-d6) δ 172.72, 171.99, 169.73, 167.83, 166.64, 136.64, 136.07, 131.36, 125.96, 118.15, 116.68, 48.97, 36.32, 30.97, 26.88, 22.03, 21.70, 13.64; Anal. Calcd. For C19H19N3O5: C, 60.50; H, 5.36; N, 11.76. Found: C, 60.10; H, 5.37; N, 11.58.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2.0 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | pentanoyl chloride | 4.0 mmol, 0.48 g | C(CCCC)(=O)Cl | C5H9ClO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]pentanamide | 0.61 g, 85% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(CCCC)=O)=O)=O | C18H19N3O5
